US08455483B2
b) 2-(3-(Bromomethyl)-5-methylphenyl)ethanol
Borane dimethyl sulfide complex (2M in THF, 8.6 mL) was added dropwise to a solution of 2-(3-(bromomethyl)-5-methylphenyl)acetic acid [Aromatic Intermediate 23, step a] (2.1 g) in THF (50 mL) at 0° C. and the mixture stirred for 10 minutes at this temperature and then at room temperature for 1 hour. The reaction mixture was quenched by dropwise addition of methanol, the solvents were evaporated under reduced pressure and the residue was purified by flash silica chromatography using 30% ethyl acetate in isohexane as solvent. Fractions containing the product were evaporated to dryness to afford the titled compound. Yield 1.40 g.

reactant | Borane dimethyl sulfide | 2M, 8.6 mL | CSC.B
reactant | 2-(3-(bromomethyl)-5-methylphenyl)acetic acid | BrCC=1C=C(C=C(C1)C)CC(=O)O | C10H11BrO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(3-(Bromomethyl)-5-methylphenyl)ethanol | BrCC=1C=C(C=C(C1)C)CCO | C10H13BrO
